US04851526
1-Butyl-3-piperidinone
In a manner similar to Preparation 1, react 1-iodobutane with 3-piperidinone to obtain the title compound.

reactant | 1-iodobutane | ICCCC | C4H9I
reactant | 3-piperidinone | N1CC(CCC1)=O | C5H9NO
product | 1-Butyl-3-piperidinone | C(CCC)N1CC(CCC1)=O | C9H17NO
